2137-09-27 06:33:00 Physician Resident Progress Note
Chief Complaint: GI BLeed
   24 Hour Events:
   Admitted
   Transfused 4 units PRBC's for 10 pt Hct drop
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-27**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 102) bpm
   BP: 111/69(79) {101/67(76) - 129/78(87)} mmHg
   RR: 10 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   12.5 g/dL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo male with history of diverticulitis s/p sigmoid resection now
   presenting with painless rectal bleeding X4 episodes.
   .
   # GI Bleed:  No further episodes of BRBPR overnight.  Hct from 29_>35
   with 4 units PRBCs.
   - continue serial Hct
   - Pt will need colonoscopy, discuss w/ GI
   - Continue to monitor hemodynamic status
   - NPO for now
   .
   # Right hip pain - s/p THR in [**2136**]. Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -tylenol PRN
   .
   # Depression - continue bupropion.
   .
   # FEN/GI - NPO for now. electrolyte repletion prn
   .
   # PPx - pneumo boots
   .
   # Code - full
   .
   # contact - wife [**Telephone/Fax (1) 457**] (cell), [**Telephone/Fax (1) 458**] (home)
   # Dispo - pending evaluation and resolution of symptoms
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2137-09-27 09:15:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 y/o M w/hx diverticulitis s/p sigmoid resection [**2134**], p/w BRBPR.
   24 Hour Events:
   - transferred to MICU overnight with continued GI bleed
   - transfused 4 U PRBCs (29->31 with 2 units, up to 35 with additional 2
   units)
   - one small BM overnight here with about a teaspoon of dark blood
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: protonix, bupropion
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2137-9-27**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.1
   HR: 80 (70 - 102) bpm
   BP: 110/70(79) {101/67(76) - 129/78(87)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  3,750 mL
                                                                    750 mL
   PO:
                  TF:
   IVF:
   Blood products:
                                                                    750 mL
                                                                    750 mL
   Total out:
                                                                    200 mL
                                                                     15 mL
   Urine:
                                                                    200 mL
   NG:
   Stool:
   15 mL
   Drains:
   Balance:
                                                                  3,550 mL
                                                                    735 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abd:  soft, nt/nd, +bs.
   Skin:  Warm
   Neurologic: Awake, alert, NAD.
   Labs / Radiology
   12.5 g/dL
   252 K/uL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   11 mg/dL
   113 mEq/L
   141 mEq/L
   35.3 %
   7.6 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
   WBC
   7.6
   Hct
   31.4
   35.3
   Plt
   252
   Cr
   0.8
   Glucose
   88
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable and only a small amount of bleeding overnight.
   - check serial Hct q6h
   - GI following
   - if bleeds again, get tagged RBC scan/angio
   - Surgery consult
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-26**] 09:30 PM
   20 Gauge - [**2137-9-27**] 01:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2137-09-28 07:03:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   - patient was seen by GI who recommended colonoscopy.  He had ongoing
   large volume BRBPR so was sent to get bleeding scan which was
   negative.  Bowel prep stopped after repeat bleed.
   -          Hct has been stable 38.9
 34.7
 34.9
 35.4
 34.6
   - s/p 4 units of PRBCs for LOS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Golytely
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.6
   HR: 66 (65 - 95) bpm
   BP: 102/66(79) {102/66(68) - 139/93(100)} mmHg
   RR: 13 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                    889 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                    889 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  1,500 mL
   Urine:
                                                                  1,175 mL
                                                                  1,500 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                   -611 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen: well appearing middle aged male, NAT
   HEENT: PERRL, EOMI, O/p Clear
   CV: RRR, no m/r/g
   Abd: soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   244 K/uL
   12.1 g/dL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Had maroon blood per rectum yesterday.  Hct is
   stable, but did not appropriately bump with 4 units of PRBCs.  Tagged
   RBC scan yesterday was negative for localization of bleed.  Initial
   plan was for colonoscopy  today; however, bowel prep was stopped due to
   ongoing GI bleed.  Now will be monitored in ICU for now with plan for
   colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS: 100s
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:   IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU care for now

2137-09-28 10:32:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB.
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2137-9-28**] 01:12 AM
   Overnight had additional BRBPR, went to tagged RBC scan which was
   negative.  Not transfused overnight.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-28**] 09:43 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-28**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 77 (65 - 95) bpm
   BP: 112/72(80) {102/66(68) - 139/93(100)} mmHg
   RR: 12 (11 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,140 mL
                                                                  1,318 mL
   PO:
             TF:
   IVF:
                                                                  1,390 mL
                                                                  1,318 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                  1,490 mL
                                                                  3,000 mL
   Urine:
                                                                  1,175 mL
                                                                  3,000 mL
   NG:
   Stool:
                                                                    315 mL
   Drains:
   Balance:
                                                                    650 mL
                                                                 -1,682 mL
   Respiratory support
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.1 g/dL
   244 K/uL
   100 mg/dL
   0.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   9 mg/dL
   109 mEq/L
   143 mEq/L
   34.6 %
   5.7 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
   WBC
   7.6
   5.7
   Hct
   31.4
   35.3
   38.9
   34.7
   34.9
   35.4
   34.6
   Plt
   252
   244
   Cr
   0.8
   0.8
   Glucose
   88
   100
   Other labs: PT / PTT / INR:13.3/22.9/1.1, Ca++:8.5 mg/dL, Mg++:2.1
   mg/dL, PO4:3.4 mg/dL
   Imaging: Tagged RBC scan overnight negative.
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite bleeding overnight.
   - check serial Hct q8h
   - GI and surgery following; appreciate input
   -          plan for colonoscopy on Monday
   -          If any signs of hemodynamic instability, may need earlier
   intervention
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: Clear liquids.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2137-9-27**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2137-09-29 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Overnight patient had no more BRBPR but had some dark red stools. Hct
   remained stable
   - Plan per GI is to do colonoscopy on Monday. Plan to give 2 bottles
   mag citrate prep today in preparation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   Pantoprazole 40 q 12 hr
   Buproprion 450 daily
   Percocet PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 78 (72 - 89) bpm
   BP: 126/83(92) {101/58(57) - 130/87(101)} mmHg
   RR: 11 (10 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    110 mL
   PO:
                                                                    270 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  1,650 mL
   Urine:
                                                                  4,950 mL
                                                                  1,650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -1,540 mL
   Respiratory support
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   GEN: NAD
   HEENT: MMM
   CV: RRR, no m/r/g
   Lung: CTAB
   Abd: soft/nt/nd
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   305 K/uL
   12.7 g/dL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   In summary, Mr. [**Known lastname 494**] is a 51 year old male male with history of
   diverticulitis s/p sigmoid resection now presenting with painless
   rectal bleeding likely secondary to diverticular bleed.
   .
   1.  Lower GI bleed.  Continues with maroon stools, but Hct stable.
   Tagged RBC scan yesterday was negative for localization of bleed.
   Initial plan was for colonoscopy  today; however, bowel prep was
   stopped due to ongoing GI bleed.  Now will be monitored in ICU for now
   with plan for colonoscopy on Monday.
   - q 8 hour hcts
   - colonoscopy on Monday
   - consider repeat tagged RBC scan if patient rebleeds versus surgical
   intervention if significant bleed
   - appreciate GI, Surgery recs
   - NPO
   - IVFs
   .
   2.  Right hip pain. S/p THR in [**2136**].  Recent pain thought to be due to
   loosening of prosthesis. Being followed by orthopedics as outpt
   -percocet PRN
   .
   3. Depression - continue bupropion.
   ICU Care
   Nutrition:
   Glycemic Control:  FS 100s
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  not needed
   Comments:
   Communication:  Comments: patient
   Code status: Full code
   Disposition: ICU for now. If Hct remains stable with no BRBPR, can
   consider transfer to floor today

2137-09-29 10:33:00 Physician Attending Progress Note
Chief Complaint: GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   24 Hour Events:
   One episode of maroon stool overnight, but no further bright red
   blood.  Hct stable at 35.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-9-29**] 12:00 AM
   Other medications:
   wellbutrin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-9-29**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 76 (67 - 89) bpm
   BP: 121/84(92) {101/58(57) - 130/87(97)} mmHg
   RR: 22 (10 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,890 mL
                                                                    260 mL
   PO:
                                                                    270 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,620 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  4,950 mL
                                                                  2,450 mL
   Urine:
                                                                  4,950 mL
                                                                  2,450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,060 mL
                                                                 -2,190 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   305 K/uL
   91 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.0 mEq/L
   6 mg/dL
   110 mEq/L
   142 mEq/L
   35.8 %
   7.8 K/uL
        [image002.jpg]
                             [**2137-9-26**]  11:51 PM
                             [**2137-9-27**]  04:47 AM
                             [**2137-9-27**]  09:34 AM
                             [**2137-9-27**]  02:13 PM
                             [**2137-9-27**]  03:37 PM
                             [**2137-9-27**]  08:06 PM
                             [**2137-9-28**]  01:09 AM
                             [**2137-9-28**]  05:21 AM
                             [**2137-9-29**]  02:58 AM
   WBC
   7.6
   5.7
   7.8
   Hct
   31.4
   35.3
   38.9
   33.7
   34.7
   34.9
   35.4
   34.6
   35.8
   Plt
   [**Telephone/Fax (3) 516**]
   Cr
   0.8
   0.8
   1.0
   Glucose
   88
   100
   91
   Other labs: PT / PTT / INR:12.9/23.7/1.1, Ca++:8.9 mg/dL, Mg++:2.2
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   51 yo M with h/o diverticulitis post sigmoid resection in [**2134**] presents
   with multiple episodes of BRBPR, probable L GIB with significant
   hematocrit drop.
   1. GI bleed:  Likely diverticular; differential also includes mass or
   polyp.  Hct now stable despite bleeding overnight.
   - Hct [**Hospital1 **] unless further bleeding
   - GI and surgery following; appreciate input
   -  plan for colonoscopy tomorrow; prep tonight
   - maintenance fluid
   2. R hip pain:  [**2-23**] hip prosthesis loosening
   - percocet prn
   3. Depression: Cont bupropion.
   ICU Care
   Nutrition:
   Comments: clear liquids
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2137-9-28**] 07:00 AM
   22 Gauge - [**2137-9-28**] 12:05 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: